US06204221B1
3-(3-Fluoro-5-chloro-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole
17.92 g of 3-(3-fluoro-5-chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole (Example H15) are initially introduced into 60 ml of glacial acetic acid together with 10.6 g of sodium acetate. The mixture is heated up to 60° C., while stirring, and a saturated solution of chlorine in glacial acetic acid is added until TLC analysis of a worked-up sample shows a complete conversion (silica gel 60 F254; eluting agent: n-hexane/ethyl acetate 2/1; UV; Rf value of the starting material 0.34; Rf value of the product 0.48). The mixture is then concentrated to dryness in vacuo and the resulting residue is partitioned between sodium bicarbonate solution and ethyl acetate. The organic phase is washed with brine, dried over sodium sulfate, filtered and evaporated to dryness in vacuo. 19.8 g of the desired target compound (pure according to TLC) are obtained. Melting point 95-96° C.

reactant | 3-(3-fluoro-5-chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 17.92 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)OC(F)F)C | C10H7ClF3N3O
reactant | sodium acetate | 10.6 g | C(C)(=O)[O-].[Na+]
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-(3-Fluoro-5-chloro-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1Cl)OC(F)F)C | C10H6Cl2F3N3O
